US07816387B2
Methyl 3-(hydroxymethyl)-5-[methyl(methylsulfonyl)amino]benzoate
To a solution of 3-(methoxycarbonyl)-5-[methyl(methylsulfonyl)amino]benzoic acid obtained in Reference Example 62.07 g (7.2 mmol) in tetrahydrofuran (10 mL) was added 1.0 M BH3.tetrahydrofuran/tetrahydrofuran solution 9 mL dropwise under ice-cooling and the mixture was stirred at room temperature for 16 hours. To the reaction solution was added methanol (3 mL) under ice-cooling, and the solvent was evaporated. To the residue was added water and the mixture was extracted with ethyl acetate. After drying of the mixture on magnesium sulfate, the solvent was evaporated and the resulting solid was recrystallized from chloroform/hexane to give 1.64 g (6.0 mmol) of the title compound (yield: 83%).

reactant | 3-(methoxycarbonyl)-5-[methyl(methylsulfonyl)amino]benzoic acid | COC(=O)C=1C=C(C(=O)O)C=C(C1)N(S(=O)(=O)C)C | C11H13NO6S
reactant | tetrahydrofuran tetrahydrofuran | 9 mL | O1CCCC1.O1CCCC1 | 2C4H8O
reactant | methanol | 3 mL | CO | CH4O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | Methyl 3-(hydroxymethyl)-5-[methyl(methylsulfonyl)amino]benzoate | 6.0 mmol, 1.64 g, yield: 83% | OCC=1C=C(C(=O)OC)C=C(C1)N(S(=O)(=O)C)C | C11H15NO5S
